US07148176B2
Di(1-adamantyl)-n-butylphosphine (n-BuP(1-Ad)2) (Variant 2)
4.6 g (15 mmol) of di(1-adamantyl)phosphine were placed in 50 ml of di-n-butyl ether, and 20 ml of a 2.5 M solution of n-BuLi in toluene (50 mmol) were added. The mixture was refluxed for 1 h and cooled and 4.1 g (30 mmol) of 1-butyl bromide were added dropwise. The mixture was refluxed for 30 min, cooled and washed with saturated ammonium chloride solution (3×), the organic phase was separated off and dried over sodium sulfate and the solvent was distilled off under reduced pressure.

reactant | di(1-adamantyl)phosphine | 15 mmol, 4.6 g | C12(CC3CC(CC(C1)C3)C2)PC23CC1CC(CC(C2)C1)C3 | C20H31P
reactant | n-BuLi | [Li]CCCC
reactant | toluene | 50 mmol | C1(=CC=CC=C1)C | C7H8
reactant | 1-butyl bromide | 30 mmol, 4.1 g | C(CCC)Br | C4H9Br
solvent | di-n-butyl ether | 50 ml | C(CCC)OCCCC | C8H18O
product | Di(1-adamantyl)-n-butylphosphine | C12(CC3CC(CC(C1)C3)C2)P(CCCC)C23CC1CC(CC(C2)C1)C3 | C24H39P
